US03931181
A solution of 7.0 g. of 4'-[(2,4-diamino-5-pyrimidinyl)-methyl]-2',6'-dimethoxy-2-(methylsulfonyl)-acetophenone in 80 ml. of 20% aqueous tetrahydrofuran is reduced with 1 g. of amalgamated aluminum at 40° over a period of 1 hour. The reaction mixture is filtered and the filtrate is concentrated to 1/3 its original volume and is adjusted to a pH of 9 with 4N sodium hydroxide solution. The precipiated product is taken up in ethyl acetate. The ethyl acetate extracts are dried over magnesium sulfate and evaporated. The residue is recrystallized from methanol and there is obtained 4'-[(2,4-diamino-5-pyrimidinyl)-methyl]-2',6'-dimethoxy-acetophenone, having a m.p. of 282°-285° (with decomposition).

reactant | 4'-[(2,4-diamino-5-pyrimidinyl)-methyl]-2',6'-dimethoxy-2-(methylsulfonyl)-acetophenone | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(CS(=O)(=O)C)=O)OC | C16H20N4O5S
reactant | aluminum | [Al] | Al
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4'-[(2,4-diamino-5-pyrimidinyl)-methyl]-2',6'-dimethoxy-acetophenone | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)C(C)=O)OC | C15H18N4O3
